US08975282B2
3-chloro-4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2,5-difluorophenoxy) picolinamide
To a solution of N-(2,5-difluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (395 mg, 1.1 mmol) in DMF (5.0 mL) was added t-BuOK (202 mg, 1.8 mmol) and the mixture was stirred at rt for 30 minutes. Then 3,4-dichloropicolinamide (190 mg, 1.0 mmol) was added and the mixture was microwaved at 120° C. for 2 hours, then cooled to rt, quenched with water (30 mL) and extracted with EtOAc (50 mL×3). The combined organic phases were washed with brine (50 mL×3), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (MeOH/DCM (v/v)=1/30) to give the title compound as a pale yellow solid (310 mg, 60%).

reactant | N-(2,5-difluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.1 mmol, 395 mg | FC1=C(C=C(C(=C1)O)F)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H15F2N3O3
reactant | t-BuOK | 1.8 mmol, 202 mg | CC(C)(C)[O-].[K+]
reactant | 3,4-dichloropicolinamide | 1.0 mmol, 190 mg | ClC=1C(=NC=CC1Cl)C(=O)N | C6H4Cl2N2O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 3-chloro-4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2,5-difluorophenoxy) picolinamide | 310 mg, 60% | ClC=1C(=NC=CC1OC1=C(C=C(C(=C1)F)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F)C(=O)N | C24H18ClF2N5O4
